US05858995
A mixture of 3-chloromethyl-7-(2,6-dichlorobenzoylamino)-2-methylbenzo[b]furan (150 mg), imidazole (33 mg) and triethylamine (62 mg) in 1,2-dichloroethane (1.5 ml) was refluxed for 3 hours. The reaction mixture was evaporated in vacuo and the residue was purified by column chromatography on silica gel. The obtained oil was crystallized from a mixture of ethyl acetate and diisopropyl ether and the crystalline was treated with ethanolic hydrogen chloride. The separated solid was collected and washed with ethanol to give 7-(2,6-dichlorobenzoylamino)-3-(imidazol-1-yl)methyl-2-methylbenzo[b]furan hydrochloride (62 mg).

reactant | 3-chloromethyl-7-(2,6-dichlorobenzoylamino)-2-methylbenzo[b]furan | 150 mg | ClCC=1C2=C(OC1C)C(=CC=C2)NC(C2=C(C=CC=C2Cl)Cl)=O | C17H12Cl3NO2
reactant | imidazole | 33 mg | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 62 mg | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 1.5 ml | ClCCCl | C2H4Cl2
product | 7-(2,6-dichlorobenzoylamino)-3-(imidazol-1-yl)methyl-2-methylbenzo[b]furan hydrochloride | 62 mg | Cl.ClC1=C(C(=O)NC2=CC=CC3=C2OC(=C3CN3C=NC=C3)C)C(=CC=C1)Cl | InChI=1S/C20H15Cl2N3O2.ClH/c1-12-14(10-25-9-8-23-11-25)13-4-2-7-17(19(13)27-12)24-20(26)18-15(21)5-3-6-16(18)22;/h2-9,11H,10H2,1H3,(H,24,26);1H
